US06518312B2
N-[3-(Diethylamino)propyl]-4-(N-iso-butyryl-N-methylamino)-benzamide
To a stirred solution of 4-(iso-butyryl-N-methylamino)-benzoic acid (0.088 g) and triethylamine (0.041 g) in chloroform (4 ml) was added a solution of ethyl chlorformate (0.049 g) in chloroform (1 ml). The mixture was stirred under an N2 atmosphere at room temperature for 1½ hours and then cooled to 0° C. N,N-Diethyl-propylenediamine (0.051 g) in chloroform (1 ml) was added and the mixture was stirred over night. The mixture were washed with 0.5 M NaOH(aq) and water. Drying and evaporation of the solvent gave a residue, which was chromatographed on a silica gel column first eluted/washed with ethylacetate and then eluted with ethylacetate-methanol-triethylamine (12:4:1) to yield 0.098 g, of the title product.

reactant | 4-(iso-butyryl-N-methylamino)-benzoic acid | 0.088 g | C(C(C)C)(=O)N(C)C1=CC=C(C(=O)O)C=C1 | C12H15NO3
reactant | triethylamine | 0.041 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chlorformate | 0.049 g | ClC(=O)OCC | C3H5ClO2
reactant | N,N-Diethyl-propylenediamine | 0.051 g | C(C)N(CC(C)N)CC | C7H18N2
solvent | chloroform | 4 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 1 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 1 ml | C(Cl)(Cl)Cl | CHCl3
product | N-[3-(Diethylamino)propyl]-4-(N-iso-butyryl-N-methylamino)-benzamide | C(C)N(CCCNC(C1=CC=C(C=C1)N(C)C(C(C)C)=O)=O)CC | C19H31N3O2
